US03951640
Preparation of N-(1,3-Dioxolan-2-ylmethyl)-N-ethylamine
A 40% by weight aqueous solution of ethylamine (100 ml) and 2-chloromethyl-1,3-dioxolane (35 grams) are charged into a glass reaction vessel equipped with a mechanical stirrer. The reaction mixture is stirred for a period of about 18 hours. After this time sodium hydroxide (18 grams) is added with stirring over a period of about 4 hours. Stirring is then continued for an additional period of about 16 hours. The organic phase of the reaction mixture is then separated, washed with aqueous potassium carbonate and dried over anhydrous magnesium sulfate. The dried product is then distilled under reduced pressure to yield the desired product N-(1,3-dioxolan-2-ylmethyl)-N-ethylamine.

reactant | 2-chloromethyl-1,3-dioxolane | 35 grams | ClCC1OCCO1 | C4H7ClO2
reactant | sodium hydroxide | 18 grams | [OH-].[Na+]
reactant | ethylamine | 100 ml | C(C)N | C2H7N
product | N-(1,3-dioxolan-2-ylmethyl)-N-ethylamine | O1C(OCC1)CNCC | C6H13NO2
